US07420001B2
To 100 mg of (S)-3-methyl-2-{4′-[(3-methyl-4-pyridin-3-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester was dissolved in 1 mL of THF was added 3 mL of LiOH solution (3.6 g LiOH/50 mL MeOH/50 mL H2O). The mixture was stirred at room temperature for 4 days. The solvents were removed under vacuum and the residue was dissolved in 5 mL of water. The pH of the solution was adjusted to 7 and the resulting suspension was filtered. The solid product was dried under vacuum to give 75 mg of (S)-3-methyl-2-{4′-[(3-methyl-4-pyridin-3-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid, obtained as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.8 (dd, J=12.6, 6.8 Hz, 6 H) 2.0 (m, 1 H) 2.2 (s, 3 H) 3.6 (dd, J=9.3 Hz, 1 H) 7.3 (dd, J=7.3, 1.0 Hz, 1 H) 7.5 (m, 1 H) 7.6 (dd, J=8.3, 7.6 Hz, 1 H) 7.8 (m, 3 H) 7.9 (m, 4 H) 7.9 (m, 1 H) 8.0 (d, J=8.8 Hz, 2 H) 8.1 (d, J=9.1 Hz, 1 H) 8.7 (m, 2 H) 10.6 (s, 1 H) 12.6 (s, 1 H).

reactant | (S)-3-methyl-2-{4′-[(3-methyl-4-pyridin-3-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester | 100 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)C=2C=NC=CC2)=O | C33H31N3O6S
reactant | LiOH | 3 mL, 3.6 g | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-3-methyl-2-{4′-[(3-methyl-4-pyridin-3-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid | 75 mg | CC([C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)C=2C=NC=CC2)C | C32H29N3O6S
